US04694017
6.8 Grams of 2-(4-chlorobenzoylamino)-3-(indol-3-yl)propionic acid prepared in Reference Example 6 was suspended in 8 g of dimethyl sulfoxide, then 17 g of concentrated hydrochloric acid was added to the suspension, and the resulting mixture was stirred at a room temperature for 2 hours. Further, 80 ml of water was added to the reaction mixture and stirred at a room temperature for 1 hour. The crystals formed were collected by filtration, washed with water, and dried. The crude crystals thus obtained were suspended in a mixture of chloroform:methanol=50:1 and stirred, the crystals were collected by filtration, and dissolved in a saturated sodium bicarbonate aqueous solution. The insoluble materials were removed by filtration, the filtrate obtained was neutralized with 10%-hydrochloric acid. The crystals formed were collected by filtration, washed with water, dried to obtain 3.2 g of 2-(4-chlorobenzoylamino)-3-(oxindol-3-yl)propionic acid monohydrate.

reactant | 2-(4-chlorobenzoylamino)-3-(indol-3-yl)propionic acid | ClC1=CC=C(C(=O)NC(C(=O)O)CC2=CNC3=CC=CC=C23)C=C1 | C18H15ClN2O3
reactant | hydrochloric acid | 17 g | Cl | ClH
reactant | water | 80 ml | O | H2O
reactant | methanol | CO | CH4O
solvent | dimethyl sulfoxide | 8 g | CS(=O)C | C2H6OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chlorobenzoylamino)-3-(oxindol-3-yl)propionic acid monohydrate | 3.2 g | O.ClC1=CC=C(C(=O)NC(C(=O)O)CC2C(NC3=CC=CC=C23)=O)C=C1 | InChI=1S/C18H15ClN2O4.H2O/c19-11-7-5-10(6-8-11)16(22)21-15(18(24)25)9-13-12-3-1-2-4-14(12)20-17(13)23;/h1-8,13,15H,9H2,(H,20,23)(H,21,22)(H,24,25);1H2
